US07202244B2
Pyrazine-2-carbonyl azide
To a solution of Pyrazine-2-carboxylic acid (295 mg, 2.1 mmol, 1 eq) and triethylamine (765 ul, 5.4 mmol, 2.6 eq) in THF (6 ml) at 0° C. was added dropwise diphenylphophoryl azide (1.4 ml, 2.8 mmol, 1.3 eq). The mixture was stirred under nitrogen at 0° C. for 30 minutes, then warmed to RT and stirring continued for a further 2 hours. The reaction mixture was concentrated under vacuum and purified by flash chromatography (90/10-60/40 Iso-hexane/EtOAc) to afford the title compound as white solid (265 mg, yield=78%). 1H NMR (400 MHz, CDCl3) δ 9.14 (d, 1H, J=1.2); 8.50 (dt, 1H, J=1.2, 0.4), 2.62 (s, 3H, broad).

reactant | Pyrazine-2-carboxylic acid | 2.1 mmol, 295 mg, 1 eq | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | triethylamine | 5.4 mmol, 765 ul, 2.6 eq | C(C)N(CC)CC | C6H15N
reactant | azide | 2.8 mmol, 1.4 ml, 1.3 eq | [N-]=[N+]=[N-]
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | Pyrazine-2-carbonyl azide | 265 mg, yield=78% | N1=C(C=NC=C1)C(=O)N=[N+]=[N-] | C5H3N5O
